US09260438B2
An aqueous solution (48 wt %) of hydrogen bromide (3.44 g, 20.4 mmol) was added to a solution of tofacitinib free base (5.60 g, 17.9 mmol) in acetone (30 mL). The resulting oily suspension was stirred for 1 hour at 25° C. before acetone was removed in vacuo by rotary evaporation and the residual solid was dried under vacuum (8 torr) for 16 hours at 25° C. to yield 7.08 g of amorphous tofacitinib hydrobromide as a pale orange solid. 1H NMR analysis showed a residual acetone content of approximately 1.0 wt %.

reactant | hydrogen bromide | 20.4 mmol, 3.44 g | Br | BrH
reactant | tofacitinib | 17.9 mmol, 5.60 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N | C16H20N6O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | tofacitinib hydrobromide | 7.08 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N.Br | InChI=1S/C16H20N6O.BrH/c1-11-5-8-22(14(23)3-6-17)9-13(11)21(2)16-12-4-7-18-15(12)19-10-20-16;/h4,7,10-11,13H,3,5,8-9H2,1-2H3,(H,18,19,20);1H/t11-,13+;/m1./s1
